US07432291B2
A solution of 7.30 g (26.7. mmol) 1-[2-(4-Allyloxy-2-methyl-benzyloxy)-ethyl]-1H-[1,2,3]-triazole in 100 ml dichloromethane was added to a solution of 13.02 g (83.4 mmol) 1,3-dimethylbarbituric acid an 959 mg (0.8 mmol) Pd(PPh3)4 in 30 ml dichloromethane and stirred overnight at 40° C. The mixture was extracted with 3× sat. NaHCO3-solution. The combined aqueous phases were extracted with dichloromethane. The combined organic extracts were dried over Na2SO4. Solvents were distilled off and the residue was purified by chromatography on silica gel (heptane/ethyl acetate 1/1 to 0/1) to yield 3.30 g (53%) 3-Methyl-4-(2-[1,2,3]triazol-1-yl-ethoxymethyl)-phenol as a yellow solid melting at 92-93° C.

reactant | 1-[2-(4-Allyloxy-2-methyl-benzyloxy)-ethyl]-1H-[1,2,3]-triazole | 7.30 g | C(C=C)OC1=CC(=C(COCCN2N=NC=C2)C=C1)C | C15H19N3O2
reactant | 1,3-dimethylbarbituric acid | 83.4 mmol, 13.02 g | CN1C(=O)N(C(=O)CC1=O)C | C6H8N2O3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | Pd(PPh3)4 | 0.8 mmol, 959 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Methyl-4-(2-[1,2,3]triazol-1-yl-ethoxymethyl)-phenol | 3.30 g, 53% | CC=1C=C(C=CC1COCCN1N=NC=C1)O | C12H15N3O2
